US08492582B2
Pyridine (1.0 mL) and acetyl chloride (0.67 mL) were sequentially added to a methylene chloride (17 mL) solution of 5-bromo-4-fluoro-2-methylaniline (1.74 g), followed by stirring at room temperature for 1 hour. Water, 1 mol/L hydrochloric acid, and chloroform were added to the reaction mixture. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Hexane was added to the obtained residue, and the solid substance was collected by filtration to obtain 1.83 g of N-(5-bromo-4-fluoro-2-methylphenyl)acetamide as a white solid.

reactant | Pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.67 mL | C(C)(=O)Cl | C2H3ClO
reactant | 5-bromo-4-fluoro-2-methylaniline | 1.74 g | BrC=1C(=CC(=C(N)C1)C)F | C7H7BrFN
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
solvent | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-4-fluoro-2-methylphenyl)acetamide | 1.83 g | BrC=1C(=CC(=C(C1)NC(C)=O)C)F | C9H9BrFNO
